data/oMe_Silver.jsonl
{"reaction_id": "NR-305_1-C(C)(C)C_2-c2ccccc2","level": "easy","name": "Tebbe-Petasis Olefination","reactants_smiles": ["O=C(C(C)(C)C)(c2ccccc2)","C[Ti](C)(C1C=CC=C1)(C1C=CC=C1)"],"products_smiles": ["C=C(C(C)(C)C)(c2ccccc2)","C","O=[Ti](C1C=CC=C1)(C1C=CC=C1)"],"conditions": "In situ generation of Tebbe/Petasis reagent","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C=[Ti](C1C=CC=C1)(C1C=CC=C1)","step_weight": 0,"rationale": "Thermal conditions promote elimination of a methyl group from titanium, forming a reactive Ti–carbene stabilized by π-donating cyclopentadienyl ligands."},{"step": 2,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(C(C)(C)C)(c2ccccc2)O[Ti]([CH2]1)(C1C=CC=C1)(C1C=CC=C1)","step_weight": 0,"rationale": "The electrophilic Ti–carbene reacts with the nucleophilic carbonyl oxygen in a [2+2] cycloaddition, favored by orbital symmetry and the strong Ti–O bond formation."},{"step": 3,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C=C(C(C)(C)C)(c2ccccc2)","step_weight": 0,"rationale": "Cycloreversion occurs to relieve ring strain, driven by formation of a stable Ti=O bond and the thermodynamically favored alkene product."}],"description": "The Tebbe-Petasis olefination converts a carbonyl group into an alkene via a titanium–carbene complex. The reagent is generated in situ, undergoes [2+2] cycloaddition with the carbonyl, and then eliminates to yield the alkene and a titanium oxo species."}
{"reaction_id": "NR-217_1-c1ccc(C(F)(F)F)cc1_2-CC","level": "easy","name": "Acidic elimination","reactants_smiles": ["OC(c1ccc(C(F)(F)F)cc1)C(CC)[Si](C)(C)C"],"products_smiles": ["C(c1ccc(C(F)(F)F)cc1)=C(CC)"],"conditions": "Acidic conditions","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(c1ccc(C(F)(F)F)cc1)C(CC)[Si](C)(C)C","step_weight": 0,"rationale": "Protonation of the hydroxyl oxygen increases its positive charge, converting OH into the better leaving group H2O under acidic conditions."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(C(F)(F)F)cc1)=C(CC)","step_weight": 0,"rationale": "Loss of water is favored due to its stability as a leaving group; the adjacent silyl group stabilizes developing carbocation character, enabling alkene formation."}],"description": "Under acidic conditions, the hydroxyl group is protonated to form a better leaving group, facilitating elimination. The bulky trialkylsilyl group on the adjacent carbon stabilizes carbocation character and promotes loss of water to yield the alkene."}
{"reaction_id": "NR-106_1-CC(C)C_2-C(C)(C)C_3-c1ccc([N+](=O)[O-])cc1_4-C","level": "medium","name": "Henry Reaction","reactants_smiles": ["C(CC(C)C)(C(C)(C)C)[N+](=O)[O-]","C(c1ccc([N+](=O)[O-])cc1)(C)=O","[OH-]"],"products_smiles": ["C(c1ccc([N+](=O)[O-])cc1)(C)(O)C(CC(C)C)(C(C)(C)C)[N+](=O)[O-]"],"conditions": "Base","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC(C)C)(C(C)(C)C)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The base abstracts the acidic α-proton next to the nitro group, as the resulting nitronate anion is resonance-stabilized by delocalization onto the electron-withdrawing nitro group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc([N+](=O)[O-])cc1)(C)([O-])C(CC(C)C)(C(C)(C)C)[N+](=O)[O-]","step_weight": 0,"rationale": "The nucleophilic nitronate carbon attacks the electrophilic carbonyl carbon, favored by the strong polarization of the C=O bond and minimal steric hindrance at the carbonyl center."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc([N+](=O)[O-])cc1)(C)(O)C(CC(C)C)(C(C)(C)C)[N+](=O)[O-]","step_weight": 0,"rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, driven by the strong thermodynamic preference for neutral alcohol formation."}],"description": "Under basic conditions, the α-proton of the nitroalkane is deprotonated to form a resonance-stabilized nitronate anion, which then nucleophilically attacks the carbonyl carbon of the aldehyde/ketone. Subsequent protonation of the alkoxide yields the β-nitro alcohol product."}
